US09353108B2
B) 6-(1-((2-Cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid
A 2 M aqueous sodium hydroxide solution (1.50 mL) was added at room temperature to a methanol (5 mL)-THF (5 mL) solution of methyl 6-(1-((2-cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (475 mg), and the mixture was stirred at 60° C. for 30 minutes. The reaction mixture was neutralized with hydrochloric acid at room temperature. Then, ethyl acetate was added thereto, and the solvent was distilled off under reduced pressure. The deposited solid was collected by filtration and washed with diethyl ether. The obtained solid was recrystallized (DMSO/ethanol/hexane) to obtain the title compound (360 mg).

reactant | sodium hydroxide | 2 M, 1.50 mL | [OH-].[Na+]
reactant | methanol | 5 mL | CO | CH4O
reactant | methyl 6-(1-((2-cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 475 mg | C1(CC1)C1=C(C(=CC(=C1)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OC)=O)OCCC)C1=CC=C(C=C1)F | C37H44FN3O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(1-((2-Cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid | 360 mg | C1(CC1)C1=C(C(=CC(=C1)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)O)=O)OCCC)C1=CC=C(C=C1)F | C36H42FN3O4
